US05958942
i) Synthesis of 4,5-dihydro-4-(1-trifluoroacetyl-piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one
In 20 ml of acetonitrile was suspended 687 mg (2.0 mM) of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride followed by addition of 2.23 ml (16.0 mM) of triethylamine and 1.41 ml (10.0 mM) of trifluoroacetic anhydride in the order mentioned. This mixture was stirred at room temperature for 1 hour and the solvent was then distilled off under reduced pressure. The residue was extracted with 50 ml of chloroform and the organic layer was washed with 50 ml of saturated aqueous NaCl solution and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=10:1) to provide 540 mg (yield 73.7%) of the title compound as light-yellow amorphous substance.

reactant | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride | 2.0 mM, 687 mg | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O
reactant | triethylamine | 16.0 mM, 2.23 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 10.0 mM, 1.41 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-(1-trifluoroacetyl-piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 540 mg, yield 73.7% | FC(C(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C17H17F3N4O2
